US08314138B2
To a solution of 2-bromo-4-methyl-thiazole-5-carboxylic acid 4-fluoro-benzylamide (5.0 g, 15.0 mmol) in toluene (30 mL), water (10 mL) and ethanol (10 mL) was added 1H-pyrazole-5-boronic acid (1.70 g, 15.0 mmol), Pd(PPh3)4 (1.75 g, 1.52 mmol), and potassium carbonate (6.3 g, 45.6 mmol). The resulting mixture was degassed three times and heated to 100° C. for 16 hr. The reaction mixture was cooled to room temperature, diluted with ethyl acetate (200 mL) and washed with brine (2×100 mL). The organic phase was dried (Na2SO4) and evaporated. The residue was purified by flash chromatography over silica gel (ethyl acetate:hexane, 50:50) to provide 4-methyl-2-(2H-pyrazol-3-yl)-thiazole-5-carboxylic acid 4-fluoro-benzylamide as yellow solid (3.25 g 68%) MS (M+H)+=317; Rt=1.13 min; HRMS (M+H)+=317.

reactant | 2-bromo-4-methyl-thiazole-5-carboxylic acid 4-fluoro-benzylamide | 15.0 mmol, 5.0 g | FC1=CC=C(CNC(=O)C2=C(N=C(S2)Br)C)C=C1 | C12H10BrFN2OS
reactant | 1H-pyrazole-5-boronic acid | 15.0 mmol, 1.70 g | N1N=CC=C1B(O)O | C3H5BN2O2
reactant | potassium carbonate | 45.6 mmol, 6.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 10 mL | O | H2O
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | Pd(PPh3)4 | 1.52 mmol, 1.75 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-methyl-2-(2H-pyrazol-3-yl)-thiazole-5-carboxylic acid 4-fluoro-benzylamide | FC1=CC=C(CNC(=O)C2=C(N=C(S2)C=2NN=CC2)C)C=C1 | C15H13FN4OS
